US03950375
Preparation of Di-n-propylperoxydicarbonate (NPP)
Using the apparatus (i.e., both centrifuges 18 and 30) and procedure of Example I (except that the temperature of reactor 14 is 25 ± 1° C.), NPP is prepared at the rate of 50 pph in an average assay of greater than 98% from 85 pph of n-propyl chloroformate, 31 pph of 50% aqueous H2O2, 169 pph of 20% NaOH and 50 pph of saturated NaCl solution.

reactant | n-propyl chloroformate | ClC(=O)OCCC | C4H7ClO2
reactant | H2O2 | OO | H2O2
reactant | NaOH | [OH-].[Na+]
reactant | NaCl | [Na+].[Cl-]
product | Di-n-propylperoxydicarbonate | C(CC)OC(=O)OOC(=O)OCCC | C8H14O6
